US05223529
4-Dimethylaminopyridine (5 mg) and then N,N'-carbonyldiimidazole (1.78 g) are added to a solution of 3,4-dichlorobenzoic acid (1.91 g) in anhydrous 1,2-dichloroethane (50 cc). The solution obtained is stirred for 2 hours at a temperature in the region of 20° C., tert-butyl 2-(2-amino-N-phenylacetamido)acetate (2.64 g) is then added and the mixture is stirred for 3 hours at a temperature in the region of 20° C. The reaction mixture is then washed with water (3×75 cc), and the organic phase is separated, dried over magnesium sulphate and concentrated to dryness under reduced pressure (2.7 kPa). The residue obtained is purified by chromatography on silica gel (0.04-0.063 mm; 250 g) contained in column 4.2 cm in diameter [eluant: dichloromethane/methanol (98:2 by volume)], using an excess pressure of 40 kPa of nitrogen and collecting 20-cc fractions. Fractions 7 to 15 are combined and concentrated to dryness under reduced pressure (2.7 kPa) at 40° C. and the residue is recrystallized in a mixture of cyclohexane and 2-propanol (80:20 by volume). tert-Butyl N-[N- (3,4-dichlorobenzoyl)glycyl]-N-phenylglycinate (1.5 g), m.p. 95° C., is thereby obtained.

reactant | 3,4-dichlorobenzoic acid | 1.91 g | ClC=1C=C(C(=O)O)C=CC1Cl | C7H4Cl2O2
reactant | tert-butyl 2-(2-amino-N-phenylacetamido)acetate | 2.64 g | NCC(=O)N(C1=CC=CC=C1)CC(=O)OC(C)(C)C | C14H20N2O3
catalyst | 4-Dimethylaminopyridine | 5 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | 1,2-dichloroethane | 50 cc | ClCCCl | C2H4Cl2
product | tert-Butyl N-[N- (3,4-dichlorobenzoyl)glycyl]-N-phenylglycinate | 1.5 g | ClC=1C=C(C(=O)NCC(=O)N(CC(=O)OC(C)(C)C)C2=CC=CC=C2)C=CC1Cl | C21H22Cl2N2O4
